US09359371B2
Preparation: 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[4.4]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (Compound 18)
In DCM (30 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (429 mg, 0.96 mmol) and DIEA (0.22 mL, 1.12 mmol). 2-Methyl-2,7-diazaspiro[4.4]nonane (154 mg, 1.1 mmol) was then added. The reaction was conducted at ambient temperature overnight. The solvent was removed by rotary evaporation, followed by addition of water and extraction with ethyl acetate. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1 to 10/1) to give a white solid (20 mg, 4% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.96 mmol, 429 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | DIEA | 1.12 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Methyl-2,7-diazaspiro[4.4]nonane | 1.1 mmol, 154 mg | CN1CC2(CC1)CNCC2 | C8H16N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[4.4]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 20 mg, 4% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)N2CC3(CC2)CN(CC3)C)C=CC1OC | C26H31ClN8O2
